US04629495
A solution of 5-chlorocarbonylmethylamino-1-(2-chloro-4-trifluoromethylphenyl)-4-cyanopyrazole (4.72 g) in dry methyl ethyl ketone (25 ml) was added over 5 minutes to a stirred solution of ethylamine (20 ml) in methyl ethyl ketone (100 ml) at 0° C. (maintained by external cooling). The resulting suspension was stirred for 1 hour whilst the reaction mixture attained laboratory temperature. The reaction mixture was evaporated to dryness and the residue was dissolved in a mixture of diethyl ether (100 ml) and water (100 ml). After separation of the organic layer, the organic layer was washed successively with aqueous 2N hydrochloric acid (2×100 ml) and water (3×50 ml) and dried over anhydrous sodium sulphate. Evaporation of the solution to dryness gave a fawn coloured powder (3.6 g. m.p. 144°-145° C.) which was chromatographed using dichloromethane-ethyl acetate (4:1) as eluent. Evaporation of the eluate containing the major component gave a yellow oil which was crystallised from a mixture of toluene (5 ml) and hexane (40 ml) to give 1-(2-chloro-4-trifluoromethylphenyl)-4-cyano-5-ethylaminocarbonylmethylaminopyrazole, m.p. 150°-151° C. in the form of colourless crystals.

reactant | 5-chlorocarbonylmethylamino-1-(2-chloro-4-trifluoromethylphenyl)-4-cyanopyrazole | 4.72 g | ClC(=O)CNC1=C(C=NN1C1=C(C=C(C=C1)C(F)(F)F)Cl)C#N | C13H7Cl2F3N4O
reactant | ethylamine | 20 ml | C(C)N | C2H7N
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 1-(2-chloro-4-trifluoromethylphenyl)-4-cyano-5-ethylaminocarbonylmethylaminopyrazole | ClC1=C(C=CC(=C1)C(F)(F)F)N1N=CC(=C1NCC(=O)NCC)C#N | C15H13ClF3N5O
